US07514419B2
To a mixture of 3,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol (1.0 g, 3.18 mmol, Chiellini et al., Bioorg. Med. Chem. Lett. 10:2607 (2000)) in C2H5OH (30.0 mL) and 40% aqueous methylamine (6.20 mL) at 0° C. was added a solution of potassium iodide (2.5 g, 15.0 mmol) and iodine (0.98 g, 3.82 mmol) in H2O (6.20 mL). The reaction mixture was stirred at 0° C. for 1 h, quenched with water and extracted with ethyl acetate (2×30 mL). The organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with 20% ethyl acetate in hexanes to afford 3,5-dimethyl-2-iodo-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol as white solid: 1H NMR (300 MHz, CD3OD): δ 6.93 (m, 2 H), 6.65 (m, 2 H), 5.18 (s, 2 H), 4.05 (s, 2 H), 3.48 (s, 3 H), 3.30 (m, 1 H), 2.41 (s, 3 H), 2.19 (s, 3 H), 1.18 (d, J=6.6 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (1:5); Rf=0.60.

reactant | 3,5-dimethyl-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol | 3.18 mmol, 1.0 g | CC=1C=C(C=C(C1CC1=CC(=C(C=C1)OCOC)C(C)C)C)O | C20H26O3
reactant | potassium iodide | 15.0 mmol, 2.5 g | [I-].[K+]
reactant | iodine | 3.82 mmol, 0.98 g | II | I2
solvent | C2H5OH | 30.0 mL | C(C)O | C2H6O
solvent | methylamine | 6.20 mL | CN | CH5N
solvent | H2O | 6.20 mL | O | H2O
product | 3,5-dimethyl-2-iodo-4-(4′-methoxymethoxy-3′-iso-propylbenzyl)phenol | CC=1C(=C(C=C(C1CC1=CC(=C(C=C1)OCOC)C(C)C)C)O)I | C20H25IO3
